// Generated for: spectre
// Generated on: Jan  8 14:06:37 2023
// Design library name: PLL
// Design cell name: pll_mix
// Design view name: config
simulator lang=spectre
global 0

// Library name: PLL
// Cell name: pll_mix
// View name: schematic
// Inherited view list: spectre spice pspice verilog verilogams behavioral
// functional systemVerilog schematic veriloga vhdl vhdlams wreal
I0 (net13 net6 net10 net8) pfd vlogic_high=1.8 vlogic_low=0 vtrans_up=0.9 \
        vtrans_dn=0.9 tdelay_up_cp_switch=2.386e-10 \
        tdelay_dn_cp_switch=2.386e-10 tr_up=1e-12 tf_up=1e-12 tr_dn=1e-12 \
        tf_dn=1e-12 tdelay_reset=9.356e-11
I1 (net10 net8 net15 0) cp iamp=1 vtrans=0.9 tdel=0 trise=1e-12 \
        tfall=1e-12 mis=0.52 tstop=4.28e-09 ioff=0 accurate=1 \
        ioff_begin=0.24
I2 (net15 vctrl) LF R=2400 C1=6e-11 C2=3e-12 Beta=20 Icp=3.2e-05
I3 (vctrl fout) vco amp=0.9 vco_gain=1.1402e+09 freq_min=2.9472e+08 \
        freq_max=9.8797e+08 vtrans=0.9 Vdd=1.8 n_load=1 v_min=0.59227 \
        v_max=1.2
I4 (fout net9) sin2pulse vlogic_high=1.8 vlogic_low=0 vtrans=0.9 \
        delay_div=0 trise=4e-11 tfall=4e-11
I5 (net6 net9 net7) divider_d
I6 (net7) stimulus_D
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=6u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
ahdl_include "/edahome/course/2022CAD/2022CAD021/NYCU-EEIE30047-Special-Topics-in-Computer-Aided-Design/HW4-Modeling-Mixed-Signal-System-and-Simulating-with-AMS/2022CAD_HW4/Lab2/PLL/pfd/veriloga/veriloga.va"
ahdl_include "/edahome/course/2022CAD/2022CAD021/NYCU-EEIE30047-Special-Topics-in-Computer-Aided-Design/HW4-Modeling-Mixed-Signal-System-and-Simulating-with-AMS/2022CAD_HW4/Lab2/PLL/cp/veriloga/veriloga.va"
ahdl_include "/edahome/course/2022CAD/2022CAD021/NYCU-EEIE30047-Special-Topics-in-Computer-Aided-Design/HW4-Modeling-Mixed-Signal-System-and-Simulating-with-AMS/2022CAD_HW4/Lab2/PLL/LF/veriloga/veriloga.va"
ahdl_include "/edahome/course/2022CAD/2022CAD021/NYCU-EEIE30047-Special-Topics-in-Computer-Aided-Design/HW4-Modeling-Mixed-Signal-System-and-Simulating-with-AMS/2022CAD_HW4/Lab2/PLL/vco/veriloga/veriloga.va"
ahdl_include "/edahome/course/2022CAD/2022CAD021/NYCU-EEIE30047-Special-Topics-in-Computer-Aided-Design/HW4-Modeling-Mixed-Signal-System-and-Simulating-with-AMS/2022CAD_HW4/Lab2/PLL/sin2pulse/veriloga/veriloga.va"
